US07687540B2
((R)-3-Amino-2-hydroxy-propyl)-cyclohexylmethyl-phosphinic acid (20.2 g, 86 mmol) was dissolved in an aqueous solution of potassium carbonate (35.6 g, 258 mmol in 270 mL of water), and stirred at room temperature during the slow addition of a solution of di-t-butyl-dicarbonate (24.36 g, 112 mmol) in THF (90 mL). The reaction mixture was left at room temperature for 4 hours, after which ethyl acetate (200 mL) was added. The aqueous phase was separated and washed with a second portion of ethyl acetate (200 mL), before carefully acidifying with 1N HCl (˜450 mL) to pH2. Extraction into ethyl acetate (500 mL total), and drying (MgSO4) gave a clear, colorless solution. Product began to crystallize from this solution upon standing. The total volume was reduced to ˜150 mL (in vacuo) before adding heptane (300 mL). The solution was left at room temperature for 30 minutes to cool & crystallize. The solid product was filtered off, washed with 30% ethyl acetate/heptane (2×100 mL), and dried under high vacuum. ((R)-3-tert-butoxycarbonylamino-2-hydroxy-propyl)-cyclohexylmethyl-phosphinic acid (26.54 g, 92%) was isolated as colorless needles. 1H-NMR (CDCl3, 300 MHz): δ 4.75 (s, H), 4.18 (br s, H), 3.4-3.24 (m, H), 3.21-3.09 (m, H), 2.01-1.58 (m, 10H), 1.43 (s, 9H), 1.37-0.95 (m, 6H). LC/MS m/z: [M+H]+=336.4.

reactant | ((R)-3-Amino-2-hydroxy-propyl)-cyclohexylmethyl-phosphinic acid | 86 mmol, 20.2 g | NC[C@H](CP(O)(=O)CC1CCCCC1)O | C10H22NO3P
reactant | potassium carbonate | 258 mmol, 270 mL, 35.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | di-t-butyl-dicarbonate | 112 mmol, 24.36 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
solvent | THF | 90 mL | C1CCOC1 | C4H8O
product | ((R)-3-tert-butoxycarbonylamino-2-hydroxy-propyl)-cyclohexylmethyl-phosphinic acid | 26.54 g, 92% | C(C)(C)(C)OC(=O)NC[C@H](CP(O)(=O)CC1CCCCC1)O | C15H30NO5P
